US05726205
(1) trans-O-acetyl-4-(4-dimethylaminomethylphenyl)-cyclohexanol
from trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol and acetylchloride/triethylamine. Colourless syrup.

reactant | trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol | CN(C)CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C15H23NO
reactant | acetylchloride triethylamine | C(C)(=O)Cl.C(C)N(CC)CC
product | trans-O-acetyl-4-(4-dimethylaminomethylphenyl)-cyclohexanol | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(C)C | C17H25NO2
